US08377874B2
Step 5: Ethyl (2S)-2-isocyanatonon-8-enoate
A solution of (2S)-1-ethoxy-1-oxononan-2-aminium chloride (4.00 g, 16.97 mmol) and DCM (80 ml) was cooled to 0° C. A solution of saturated NaHCO3 (80.0 ml, 84 mmol) was added, and then triphosgene (1.662 g, 5.60 mmol) was added. The reaction mixture was stirred at 0° C. for 1 hour, and then the layers were separated. The aqueous layer was extracted with DCM (3×). The combined organic portions were washed with brine, dried with MgSO4 and filtered and concentrated. The crude product was subjected to silica gel chromatography (80:20 hexane/EtOAc) to give the title compound.

reactant | (2S)-1-ethoxy-1-oxononan-2-aminium chloride | 16.97 mmol, 4.00 g | [Cl-].C(C)OC([C@H](CCCCCCC)[NH3+])=O
reactant | NaHCO3 | 84 mmol, 80.0 ml | C(=O)(O)[O-].[Na+]
reactant | triphosgene | 5.60 mmol, 1.662 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | DCM | 80 ml | C(Cl)Cl | CH2Cl2
product | Ethyl (2S)-2-isocyanatonon-8-enoate | N(=C=O)[C@H](C(=O)OCC)CCCCCC=C | C12H19NO3
